reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O-:1][C:2]1=[C:6]([H:11])[N+:4](=[C:5]([H:9])[H:10])[C:3]1([H:7])[H:8]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],50.9749164092113
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](/[N+:4](=[C-:5][O:6][H:12])[H:11])[H:10])([H:7])([H:8])[H:9],72.7856216808652
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1](/[C:2](=[C:3]1/[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:9])([H:7])([H:8])[H:10],64.625750729899
[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:6](=[C:5]=[C:4]([H:9])[H:10])[H:11])[H:8])\[H:7],71.66415878554301
[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N-:1]=[C:2]=[C+:3][N:5]([C:4]([H:6])([H:7])[H:8])[H:9],73.683044061592
[C:1]1([H:7])([H:8])[C:2](=[O:4])[N:3]1[H:10].[C:5](=[O:6])([H:9])[H:11]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],45.01051944055689
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@@:2]1([H:12])[O:3]/[C:6](=[N:7]\[H:13])[O:5][C:4]1([H:10])[H:11])([H:8])[H:9],88.1753267062305
[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8]>>[N:1]([C:2]12[O:3][C:5]([H:10])([N:4]1[H:9])[N:6]2[H:11])([H:7])[H:8],99.0548138271227
[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[C:6]([H:11])[H:14])([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],52.73686707293145
[C:1](=[N:2][H:10])([H:7])[H:9].[C:3](=[O:4])([O:5][C:6]([H:11])([H:12])[H:13])[H:8]>>[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],74.0938112083747
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4][C:5]1=[C:6]([H:13])[H:14])([H:7])([H:8])[H:9],72.2597765638016
[O:1]([C:2]1([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])([H:9])[H:10])[C:6]([H:14])=[C:7]1[H:15])[H:8]>>[O:1]([C@@:2]12[C:3]([H:9])([H:10])[C@@:4]3([H:11])[C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15])[H:8],55.5135287536393
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[O:5][C@:6]1([H:14])[C@@:7]2([C:4][H:13])[H:15])([H:8])([H:9])[H:10],110.182027291933
[N:1](=[C:2])[H:7].[O:3]([C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],52.08316059701271
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([O:4][H:13])([H:11])[H:12])[C:5]([O:6][H:16])([H:14])[H:15])([H:8])[H:9].[H:7][H:10],112.802095585602
[C:1]1([H:4])([H:5])[C:2]([H:6])([H:7])[O:3]1>>[C-:1]([O+:3]=[C:2]([H:6])[H:7])([H:4])[H:5],68.00785836263579
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]=[C:5]([C:6]#[C:7][H:15])[H:14])([H:8])([H:9])[H:10],90.20019652649452
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[O:4][C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15]>>[C:1]1([H:9])=[C:6]([H:14])[C@:7]2([H:15])[C@@:2]1([H:10])[C@@:3]2([O:4][C:5]([H:8])([H:12])[H:13])[H:11],127.617799923452
[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C:1](=[C:2])([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],60.3662121468851
[C:5]=[N:6][H:7].[O:1]=[C:2]([C:3]#[C:4][H:9])[H:8]>>[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7],48.7759711770084
[C:1]([C@@:2]([O:3][H:12])([C:4](=[C:6])[C:7](=[O:5])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],26.418032816848495
[C:1]([C@@:2]([N:3]([H:10])[H:11])([N+:5]#[C-:4])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],31.8663420547004
[C:1]([O:2][C:3]([C:4]([O:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4](=[O+:5][C-:6]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:16],84.68968629874401
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])=[C:6]=[C:7]([H:9])[H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],37.34489283031159
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:12])[N:3]2[C:4]([H:11])([H:13])[C:5]([H:14])=[N:6][C@@:7]12[H:15])([H:8])([H:9])[H:10],109.665400958519
[N:1]1([H:8])[C:2][C@:7]1([C:6](=[O:5])[H:9])[H:10].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],41.8627426674545
